US08227491B2
a) 5-Bromo-N-((1SR,2RS)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
5-Bromo-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (75.0 g, 0.25 mol) was dissolved in DMF (850 mL). To the solution was added TBTU (91.0 g, 0.275 mol), N,N-diisopropylethyl amine (214 mL, 1.25 mol) and (1SR,2RS)-2-amino-cyclohexanol hydrochloride (41.7 g, 0.275 mol). The reaction mixture was stirred for 1.5 h at room temperature. The solvent was evaporated in vacuo, the residue was partitioned between ethyl acetate (2500 mL) and 1 N sodium hydroxide solution (2000 mL), the water phase was separated, extracted once more with ethyl acetate (1000 mL) and the organic phases were washed 2 times with water (2×1500 mL). Organic phases were pooled, dried with MgSO4 and concentrated to about 900 mL. The product precipitated upon stirring and cooling to 0° C. Filtration, washing with ethyl acetate/n-heptane (1:1) and drying in vacuo gave the title compound (81.1 g) as a white solid; MS (ISP) 397, 399 (M)+.

reactant | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 0.25 mol, 75.0 g | BrC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5BrF3NO3
reactant | TBTU | 0.275 mol, 91.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.25 mol, 214 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1SR,2RS)-2-amino-cyclohexanol hydrochloride | 0.275 mol, 41.7 g | Cl.NC1C(CCCC1)O
solvent | DMF | 850 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-N-((1SR,2RS)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | 81.1 g | BrC=1C(=NC=C(C(=O)NC2C(CCCC2)O)C1)OCC(F)(F)F | C14H16BrF3N2O3
